US08314100B2
1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine (Compound 131)
Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate and 1-(3,5-dimethoxyphenyl)piperazine were reacted by the same way with the example 127 to obtain the titled compound (yield, 88%). MS (ESI) m/z 438 (M+1).

reactant | Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate | COC=1C(=NC2=CC=C(C=C2N1)C)NC(OCC)=O | C13H15N3O3
reactant | 1-(3,5-dimethoxyphenyl)piperazine | COC=1C=C(C=C(C1)OC)N1CCNCC1 | C12H18N2O2
product | 1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | 88% | COC=1C(=NC2=CC=C(C=C2N1)C)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C23H27N5O4
